US04618677
The procedure described in Example 2 was followed, using 1.7 g of 4-methoxyphenyl isocyanate, 4.0 g of 3-[4-(4-chlorophenethyl)piperazin-1-yl]propanethiol dihydrochloride, 1.1 g of triethylamine and 50 ml of methylene chloride, to give 1.4 g (25% of theory) of N-(4-methoxyphenyl)-S-{3-[4-(4-chlorophenethyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. 236°-238° C.

reactant | 4-methoxyphenyl isocyanate | 1.7 g | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | 3-[4-(4-chlorophenethyl)piperazin-1-yl]propanethiol dihydrochloride | 4.0 g | Cl.Cl.ClC1=CC=C(CCN2CCN(CC2)CCCS)C=C1
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(4-methoxyphenyl)-S-{3-[4-(4-chlorophenethyl)piperazin-1-yl]propyl}thiocarbamate dihydrochloride | 1.4 g, 25% | Cl.Cl.COC1=CC=C(C=C1)NC(O)=SCCCN1CCN(CC1)CCC1=CC=C(C=C1)Cl | InChI=1S/C23H32ClN3O2S.2ClH/c1-29-22-9-7-21(8-10-22)25-23(28)30-18-2-12-26-14-16-27(17-15-26)13-11-19-3-5-20(24)6-4-19;;/h3-10,25,28,30H,2,11-18H2,1H3;2*1H
